US08389520B2
6-Hydrazinonicotinic Acid
5.0 g (31.7 mmol) 6-chloronicotinic acid and 30.9 ml (31.8 g, 634.7 mmol) hydrazine hydrate are initially introduced into 10 ml ethanol and the mixture is stirred at the boiling point at a bath temperature of 100° C. for 16 h. The solvent and excess hydrazine hydrate are distilled off on a rotary evaporator, the residue is taken up in water, 1.8 g (31.7 mmol) potassium hydroxide are then added and the mixture is stirred for 15 min. The solvent is removed completely on a rotary evaporator, the residue is dried in vacuo and 7.5 g of crude product, which is reacted further as such, are obtained.

reactant | 6-chloronicotinic acid | 31.7 mmol, 5.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | hydrazine hydrate | 634.7 mmol, 30.9 ml, 31.8 g | O.NN
reactant | potassium hydroxide | 31.7 mmol, 1.8 g | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-Hydrazinonicotinic Acid | N(N)C1=NC=C(C(=O)O)C=C1 | C6H7N3O2
